US07576082B2
To a solution of n-butyllithium (2.0 M in hexanes, 3.45 mL, 7.5 mmol) (Aldrich) in tetrahydrofuran (3 mL) at −78° C. was added a solution of 3-bromo-pyridine (0.96 g, 8.1 mmol) (Aldrich) in tetrahydrofuran (6 mL) dropwisely. After the addition, the resulting dark solution was stirred for additional 15 minutes. A solution of 6-chloroisatin (0.5 g, 2.76 mmol) (Crescent) in tetrahydrofuran (5 mL) was added dropwisely and the crude was warmed up to room temperature and stirred at room temperature for 3 hours. The reaction was quenched with water. The mixture was extracted with ethyl acetate three times. The combined organic layers were washed with water, brine, dried over Na2SO4 and concentrated. The residue was purified by chromatography to give rac-6-Chloro-3-hydroxy-3-pyridin-3-yl-1,3-dihydro-indol-2-one as a yellow solid. (Yield 0.27 g, 37%).

reactant | n-butyllithium | 7.5 mmol, 2.0 M, 3.45 mL | C(CCC)[Li]
reactant | 3-bromo-pyridine | 8.1 mmol, 0.96 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | 6-chloroisatin | 2.76 mmol, 0.5 g | ClC1=CC=C2C(C(NC2=C1)=O)=O | C8H4ClNO2
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | rac-6-Chloro-3-hydroxy-3-pyridin-3-yl-1,3-dihydro-indol-2-one | ClC1=CC=C2C(C(NC2=C1)=O)(C=1C=NC=CC1)O | C13H9ClN2O2
